US07268142B2
6,7-dimethoxy-4-[8-(morpholine-4-sulfonyl)-3,4-dihydro-1H-isoquinolin-2-yl]-quinazoline
8-(morpholine-4-sulfonyl)-1,2,3,4-tetrahydroisoquinoline (15.7 g, 55.6 mmol) and 4-chloro-6,7-dimethoxy-quinazoline (12.5 g, 55.6 mmol) were refluxed overnight in 2-propanol (400 mL). The solvent was removed under vacuum and the resultant solid was partitioned between aqueous ammonia and CH2Cl2. The mixture was extracted three times with CH2Cl2 and the combined extracts were dried and concentrated. Flash chromatography (0.1:3:97 NH4OH/MeOH/CH2Cl2) followed by recrystallization of the product fractions from EtOH provided, in two crops, 22.2 g (85%) of the title compound.

reactant | 8-(morpholine-4-sulfonyl)-1,2,3,4-tetrahydroisoquinoline | 55.6 mmol, 15.7 g | N1(CCOCC1)S(=O)(=O)C=1C=CC=C2CCNCC12 | C13H18N2O3S
reactant | 4-chloro-6,7-dimethoxy-quinazoline | 55.6 mmol, 12.5 g | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
solvent | 2-propanol | 400 mL | CC(C)O | C3H8O
product | 6,7-dimethoxy-4-[8-(morpholine-4-sulfonyl)-3,4-dihydro-1H-isoquinolin-2-yl]-quinazoline | 22.2 g, 85% | COC=1C=C2C(=NC=NC2=CC1OC)N1CC2=C(C=CC=C2CC1)S(=O)(=O)N1CCOCC1 | C23H26N4O5S
